US05650533
Pyridinium chlorochromate (27.6 g) was suspended in dichloromethane and ethyl 4-chloro-2-fluoro-3-(1-hydroxyethyl)benzoate (14.1 g) was added. The mixture was stirred at room temperature for 2 hours and then heated at reflux for 2 hours. After cooling the solvent was evaporated and the residue purified by column chromatography eluted with a mixture of ethyl acetate and n-hexane (1:5) to give ethyl 4-chloro-3-acetyl-2-fluorobenzoate as a yellow oil (13 g), NMR (CDCl3) 1.3(t,3H), 2.5(s,3H), 4.3(q,2H), 7.1(d, 1H), 7.S(t, 1H).

reactant | Pyridinium chlorochromate | 27.6 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ethyl 4-chloro-2-fluoro-3-(1-hydroxyethyl)benzoate | 14.1 g | ClC1=C(C(=C(C(=O)OCC)C=C1)F)C(C)O | C11H12ClFO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 4-chloro-3-acetyl-2-fluorobenzoate | 13 g | ClC1=C(C(=C(C(=O)OCC)C=C1)F)C(C)=O | C11H10ClFO3
